US06124503
In a 2-l flask, place 48.0 g (1.2 m) of sodium hydroxide pellets, 25.65 g (0.8 m) of sulfur powder, 72.0 g (0.3 m) of sodium sulfide nonahydrate, and 640 ml of distilled water. Heat the mixture with good stirring to about 70 C. to make an orange-red solution. In a 400-ml beaker, place 90.7 g (0.6 m) of 4-nitro-o-xylene, 9.6 g (0.03 m) of tetrabutylammonium bromide and 120 ml of isopropyl alcohol. Warm it to 50 C. with occasional stirring to make a clear pale-yellow solution. Add the solution in the beaker to the mixture in the 2-l flask and use 40 ml of isopropyl alcohol to rinse the beaker and add to the reaction mixture. Heat the mixture with vigorous stirring under gentle reflux (pot temperature 83 C.) for 4.5 hours. Distill off isopropyl alcohol till approximately 200 ml of distillate is collected and pot/vapor temperature reaches to 100 C. Cool the reaction mixture to 20 C. Add 400 ml of propyl acetate and stir vigorously at room temperature for 5 minutes, and let layers settle. Separate off bottom water layer. Add 400 ml of cold water and stir vigorously at room temperature for 5 minutes, and let layers settle. Separate bottom water layer. The propyl acetate solution contains 4-amino-2-methylbenzaldehyde intermediates. Add 61.1 g (0.54 m) of ethyl cyanoacetate, 1.6 g of piperidine, and 4.8 g of acetic acid. Stir the reaction mixture at room temperature for 30 min and then distill off propyl acetate under aspirator vacuum at pot/vapor temperature of 35-40 C. till no distillate comes off. Distillate comes out as an azeotropic mixture of propyl acetate and water with excess of propyl acetate. Add 120 ml of propyl acetate with gentle stirring while cooling to room temperature to get a fine yellow slurry. Add 300 ml of isopropyl ether slowly with a little faster stirring. Stir the product mixture for 20 minutes and let it stand at room temperature for 1 hour. Collect product, wash isopropyl ether, and dry to give 100.5 g (72.7%) of blocked aminobenzaldehyde intermediate.

reactant | sodium hydroxide | 48.0 g | [OH-].[Na+]
reactant | sulfur | 25.65 g | [S] | S
reactant | sodium sulfide nonahydrate | 72.0 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 4-nitro-o-xylene | 90.7 g | [N+](=O)([O-])C=1C=C(C(=CC1)C)C | C8H9NO2
reactant | isopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
reactant | isopropyl alcohol | 40 ml | C(C)(C)O | C3H8O
reactant | isopropyl alcohol | 120 ml | C(C)(C)O | C3H8O
catalyst | tetrabutylammonium bromide | 9.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 640 ml | O | H2O
product | aminobenzaldehyde | 100.5 g, 72.7% | NC1=C(C=O)C=CC=C1 | C7H7NO
